US08236813B2
(2) 1-(2-Amino-4,6-dichloropyrimidin-5-yl)-2-(2,2-dimethyl-[1,3]dioxolan-4-yl)ethan-1-ol
A mixture composed of 1-(2-amino-4,6-dichloropyrimidin-5-yl)-3-buten-1-ol (57.24 g), N-methylmorpholine-N-oxide (147.6 g), tetrahydrofuran (500 ml), acetone (500 ml), water (500 ml) and osmium tetroxide (62 mg) was stirred at room temperature for 2 days. After the disappearance of the materials had been confirmed, a saturated aqueous sodium thiosulfate solution (1 L) was added to the reaction solution, and the reaction mixture was then concentrated to approximately 1.5 L under reduced pressure. The residue was saturated with sodium chloride, followed by extraction with tetrahydrofuran. The organic layer was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the solvent was then distilled away. N,N-Dimethylformamide (500 ml), 2,2-dimethoxypropane (210 ml) and p-toluenesulfonic acid monohydrate (18.61 g) were added to the resulting residue. The resulting mixture was stirred at room temperature for 14 hours. A saturated sodium bicarbonate solution (1 L) and water (1 L) were added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was successively washed with water and saturated saline in this order, and it was then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated to about 100 ml under reduced pressure. Hexane was added to the residue, and the precipitate was then collected by filtration, so as to obtain the title compound (53.88 g) as a solid.

reactant | 1-(2-amino-4,6-dichloropyrimidin-5-yl)-3-buten-1-ol | 57.24 g | NC1=NC(=C(C(=N1)Cl)C(CC=C)O)Cl | C8H9Cl2N3O
reactant | N-methylmorpholine-N-oxide | 147.6 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | sodium thiosulfate | 1 L | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 500 ml | O | H2O
catalyst | osmium tetroxide | 62 mg | [Os](=O)(=O)(=O)=O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-(2-Amino-4,6-dichloropyrimidin-5-yl)-2-(2,2-dimethyl-[1,3]dioxolan-4-yl)ethan-1-ol | 53.88 g | NC1=NC(=C(C(=N1)Cl)C(CC1OC(OC1)(C)C)O)Cl | C11H15Cl2N3O3
